US04136256
By a procedure analagous to that described in Example 1, 3-methylbutylmagnesium bromide in tetrahydrofuran is reacted with 34.5 g. of 1,11-dibromoundecane and 0.2 g. of Li2CuCl4 in 75 ml. tetrahydrofuran. After one hour stirring at -10° C., the solution is evaporated and the resultant oil is distilled in vacuo to yield the colorless 14-methyl pentadecyl bromide.

reactant | 3-methylbutylmagnesium bromide | CC(CC[Mg]Br)C
reactant | 1,11-dibromoundecane | BrCCCCCCCCCCCBr | C11H22Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 14-methyl pentadecyl bromide | CC(CCCCCCCCCCCCCBr)C | C16H33Br
